US05861414
(ii) {4-[1-(4-Fluoro-benzyl)-6-(2-piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid hydrochloride
A mixture of 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1-(4-fluoro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester (400 mg, 0.63 mmol) in aqueous 5M hydrochloric acid (80 ml) was stirred at +23° under nitrogen for 4 h. The solution was evaporated in vacuo and the residue triturated with ether to give the title compound as a cream solid (299 mg).

reactant | 4-{2-[3-(1-tert-butoxycarbonylmethyl-piperidin-4-yl)-1-(4-fluoro-benzyl)-1H-indazol-6-yl]-(E)-vinyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.63 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)\C=C\C1=CC=C2C(=NN(C2=C1)CC1=CC=C(C=C1)F)C1CCN(CC1)CC(=O)OC(C)(C)C | C37H49FN4O4
reactant | hydrochloric acid | 5M, 80 ml | Cl | ClH
product | {4-[1-(4-Fluoro-benzyl)-6-(2-piperidin-4-yl-(E)-vinyl)-1H-indazol-3-yl]-piperidin-1-yl}-acetic acid hydrochloride | 299 mg | Cl.FC1=CC=C(CN2N=C(C3=CC=C(C=C23)\C=C\C2CCNCC2)C2CCN(CC2)CC(=O)O)C=C1 | InChI=1S/C28H33FN4O2.ClH/c29-24-6-3-22(4-7-24)18-33-26-17-21(2-1-20-9-13-30-14-10-20)5-8-25(26)28(31-33)23-11-15-32(16-12-23)19-27(34)35;/h1-8,17,20,23,30H,9-16,18-19H2,(H,34,35);1H/b2-1+;
